US09340555B2
A mixture of 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid (300 mg, 0.66 mmol), HATU (277 mg, 0.73 mmol) and N,N-diisopropylethylamine (187 mg, 1.45 mmol) in anhydrous acetonitrile (10 ml) was stirred at room temperature for 30 minutes, followed by addition of N-Boc-1,3-propanediamine (172 mg, 0.99 mmol). The mixture was stirred for another 10 minutes and poured into 100 ml of water with vigorous stirring. 2M HCl was added dropwise until pH=5. The precipitates were filtered, washed with water and dried in vacuo to give tert-butyl {3-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]propyl}carbamate as light yellow solid. Yield: 345 mg, 85%.

reactant | 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid | 0.66 mmol, 300 mg | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C22H15F2N3O4S
reactant | HATU | 0.73 mmol, 277 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.45 mmol, 187 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-Boc-1,3-propanediamine | 0.99 mmol, 172 mg | C(=O)(OC(C)(C)C)NCCCN | C8H18N2O2
reactant | HCl | 2M | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | tert-butyl {3-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]propyl}carbamate | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCCNC(OC(C)(C)C)=O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C30H31F2N5O5S
